US09233977B2
Step 2: 3-(Methylsulfanyl)-5-phenyl-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one
To a solution of 3-(methylsulfanyl)-5-phenyl-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one (45 mg, 0.095 mmol) in MeOH (25 μL) at rt was added 4M HCl in MeOH (25 μL, 0.095 mmol). The solution was heated at 80° C. for 1 h. The resulting mixture was concentrated and purified by Gilson reverse phase chromatography to afford the title compound as a mixture of amide rotamers. 1H NMR (400 MHz, ppm, CDCl3) δ 7.62 (d, J=2.4 Hz, 1 H); 7.45-7.30 (m, 4 H); 7.28-7.22 (m, 1 H); 6.42 (d, J=2.4 Hz, 1 H); 3.96 (t, J=6.3 Hz, 2 H); 3.23 (t, J=6.3 Hz, 3 H); 2.62 (s, 3 H). HRMS (ES+) m/z 342.0728 [(M+H)+; calcd for C17H15N3OS2: 342.0729].

reactant | 3-(methylsulfanyl)-5-phenyl-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | 0.095 mmol, 45 mg | CSC=1SC(=C2C1C(N(CC2)C2=CC=CC=C2)=O)C2=NN(C=C2)COCC[Si](C)(C)C | C23H29N3O2S2Si
reactant | HCl | 4M | Cl | ClH
solvent | MeOH | 25 μL | CO | CH4O
solvent | MeOH | 0.095 mmol, 25 μL | CO | CH4O
product | 3-(Methylsulfanyl)-5-phenyl-1-(1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | CSC=1SC(=C2C1C(N(CC2)C2=CC=CC=C2)=O)C2=NNC=C2 | C17H15N3OS2
